US05444059
A mixture of 6.87 g (16.07 mmol) of 2-{4-[4-(4-chloropyrazol-1-yl)butyl ]-1-piperazinyl}-5-benzyloxypyrimidine and 0.63 g of 10% palladium on carbon in 160 ml of ethanol is stirred for 12 hours under a hydrogen atmosphere at room temperature (24° C.) and at a pressure of 2 atmospheres. After filtration, washing with ethanol and evaporation to dryness, the product is chromatographed on silica gel, yielding 2.65 g (49%) of 2-{4-[4-(4-chloropyrazol-1-yl ) butyl]-1-piperazinyl}-5-hydroxypyrimidine with a melting point of 131°-2° C.

reactant | 2-{4-[4-(4-chloropyrazol-1-yl)butyl ]-1-piperazinyl}-5-benzyloxypyrimidine | 16.07 mmol, 6.87 g | ClC=1C=NN(C1)CCCCN1CCN(CC1)C1=NC=C(C=N1)OCC1=CC=CC=C1 | C22H27ClN6O
catalyst | palladium on carbon | 0.63 g | [Pd] | Pd
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 2-{4-[4-(4-chloropyrazol-1-yl ) butyl]-1-piperazinyl}-5-hydroxypyrimidine | 2.65 g, 49% | ClC=1C=NN(C1)CCCCN1CCN(CC1)C1=NC=C(C=N1)O | C15H21ClN6O
